US07368573B2
(e) Preparation of (S)-2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid (1-phenyl-2-propionylamino-ethyl)-amide
(S)-2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid (2-amino-1-phenyl-ethyl)-amide (N, 30 mg, 0.05 mM), proprionic acid (0.075 mM), EDC (14 mg, 0.075 mM), HOBT (11 mg, 0.075 mM), and triethylamine (0.03 mL, 0.21 mM) were taken up in CH2Cl2 (1 mL) and stirred at room temperature for 16 h. The mixture was concentrated and the residue was purified by flash chromatography (silica gel) eluting with EtOAc/hexanes. HPLC retention time, 2.87 min; ESMS (m+1), 611; calc. Mw, 610

reactant | (S)-2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid (2-amino-1-phenyl-ethyl)-amide | 0.05 mM, 30 mg | NC[C@H](C1=CC=CC=C1)NC(=O)C=1C=C2C=CC(=NC2=CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C32H25F3N4O2
reactant | proprionic acid | 0.075 mM | C(CC)(=O)O | C3H6O2
reactant | EDC | 0.075 mM, 14 mg
reactant | HOBT | 0.075 mM, 11 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.21 mM, 0.03 mL | C(C)N(CC)CC | C6H15N
product | (S)-2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid (1-phenyl-2-propionylamino-ethyl)-amide | C1(=CC=CC=C1)[C@@H](CNC(CC)=O)NC(=O)C=1C=C2C=CC(=NC2=CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C35H29F3N4O3
